US07348353B2
A solution of 4-hydroxy-4-phenylethynyl-octahydro-indole-1-carboxylic acid ethyl ester (1.0 g, 3.19 mmol), triethylamine (2.2 ml, 16 mmol) and phosphorous oxychloride 0.877 ml, 10 mmol) is heated to 40° C. for 4 hours. The dark mixture is cooled to 0° C. and treated with 1M sodium hydroxide (5 ml) and then acidified with a 10% aqueous citric acid solution. The mixture is extracted with dichloromethane, the organic extracts are washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue is chromatographed on silica with hexane and diethyl ether (4:1 v/v). The first product containing fractions afforded (±)-(RS)-4-phenylethynyl-2,3,5,6,7,7a-hexahydro-indole-1-carboxylic acid ethyl ester (10 mg, 1%) as a yellowish oil. 1H-NMR (400 MHz; CDCl3): 7.44 (m, 2H), 7.32 (m, 3H), 4.24-3.97 (m, 3H), 3.8 (m, 1H), 3.25 (m, 1 H), 2.93 (m, 1H), 2.56 (m, 1H), 2.28 (m, 2H), 1.90 (m, 1H), 1.60 (m, 2H), 1.28 (t, J=7 Hz, 3H), 1.14 (m,1H). ES-MS (+): 296.1. After collecting a mixture of the two products (475 mg, 50%), the third product containing fractions yielded (±)-(3RS,7aRS)-4-phenylethynyl-2,3,3a,6,7,7a-hexahydro-indole-1-carboxylic acid ethyl ester (64 mg, 7%) as a yellowish oil. 1H-NMR (400 MHz; CDCl3): 7.43 (m, 2H), 7.31 (m, 3H), 6.27 (m, 1H), 4.15 (m, 2H), 4.01-3.83 (m, 1H), 3.46(m, 2H), 2.82 (m, 1H), 2.37-1.82 (m, 5H), 1.57 (m, 1H), 1.27 (t, J=7 Hz, 3H). ES-MS (±): 296.2.

reactant | 4-hydroxy-4-phenylethynyl-octahydro-indole-1-carboxylic acid ethyl ester | 3.19 mmol, 1.0 g | C(C)OC(=O)N1CCC2C(CCCC12)(C#CC1=CC=CC=C1)O | C19H23NO3
reactant | triethylamine | 16 mmol, 2.2 ml | C(C)N(CC)CC | C6H15N
reactant | phosphorous oxychloride | 10 mmol, 0.877 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 1M, 5 ml | [OH-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | (±)-(RS)-4-phenylethynyl-2,3,5,6,7,7a-hexahydro-indole-1-carboxylic acid ethyl ester | 10 mg, 1% | C(C)OC(=O)N1CCC2=C(CCCC12)C#CC1=CC=CC=C1 | C19H21NO2
